US07514432B2
Methanesulfonic acid 4-oxo-5-[5-(7-trifluoromethyl-quinolin-4ylsulfanyl)-pentyloxy]-4H-pyran-2-ylmethyl ester 9
To a suspension of 2-hydroxymethyl-5-[5-(7-trifluoromethyl-quinolin-4-ylsulfanyl)-pentyloxy]-4H-pyran-4-one EHT 5909 (0.10 g, 0.23 mmol) in 4 mL of dichloromethane at 5° C. were added triethylamine (35 μl, 0.25 mmol) and methanesulfonyl chloride (19.4 μl, 0.25 mmol). The reaction mixture was stirred 18 h at room temperature. Dichloromethane (20 mL) was added and the solution was washed with aqueous NaHCO3 10% (2×30 mL). The organic layer was dried over MgSO4, filtered and evaporated in vacuo. The crude product was purified by chromatography on silica using as eluent CH2Cl2:MeOH=98:2. After evaporation methanesulfonic acid 4-oxo-5-[6-(7-trifluoromethyl-quinolin-4-ylsulfanyl)-hexyloxy]-4H-pyran-2-ylmethyl ester 9 (83 mg, 69%) was obtained as a white solid.

reactant | 2-hydroxymethyl-5-[5-(7-trifluoromethyl-quinolin-4-ylsulfanyl)-pentyloxy]-4H-pyran-4-one | OCC=1OC=C(C(C1)=O)OCCCCCSC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C21H20F3NO4S
reactant | triethylamine | 0.25 mmol, 35 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.25 mmol, 19.4 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 4-oxo-5-[5-(7-trifluoromethyl-quinolin-4ylsulfanyl)-pentyloxy]-4H-pyran-2-ylmethyl ester | O=C1C=C(OC=C1OCCCCCSC1=CC=NC2=CC(=CC=C12)C(F)(F)F)COS(=O)(=O)C | C22H22F3NO6S2
